### PR TITLE
[Merged by Bors] - feat: Lemmas about integrals of bounded continuous functions.

### PR DESCRIPTION
**Pull request by kkytola**
This PR adds some lemmas about integrals of bounded continuous functions. The lemmas are collected in a separate file.

---

Existing lemmas about integrals of bounded continuous functions, especially from `MeasureTheory.Measure.FiniteMeasure`, are moved to the new file specifically devoted to this purpose.

The use case for the newly added lemmas is the proof of the last implication of portmanteau theorem.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+open MeasureTheory Filter
+open scoped ENNReal NNReal BoundedContinuousFunction Topology
+
+namespace BoundedContinuousFunction
+
+section NNRealValued
+
+variable {X : Type*} [MeasurableSpace X] [TopologicalSpace X] [OpensMeasurableSpace X]
+
+theorem NNReal.coe_ennreal_comp_measurable (f : X →ᵇ ℝ≥0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:27]: You are in the `BoundedContinuousFunction` namespace, and you would like this kind of lemma to be accessible by dot notation, so making it long by prefixing it with `NNReal` is probably not a good pick. I would just call it `measurable_coe_ennreal_comp` as there is no ambiguity here.

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+    Measurable fun x ↦ (f x : ℝ≥0∞) :=
+  measurable_coe_nnreal_ennreal.comp f.continuous.measurable
+#align bounded_continuous_function.nnreal.to_ennreal_comp_measurable BoundedContinuousFunction.NNReal.coe_ennreal_comp_measurable
+
+variable (μ : Measure X) [IsFiniteMeasure μ]
+
+theorem NNReal.lintegral_lt_top (f : X →ᵇ ℝ≥0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:34]:
```suggestion
theorem lintegral_lt_top_of_nnreal (f : X →ᵇ ℝ≥0) :
```
?

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+    (∫⁻ x, f x ∂μ) < ∞ := by
+  apply IsFiniteMeasure.lintegral_lt_top_of_bounded_to_ennreal
+  refine ⟨nndist f 0, fun x ↦ ?_⟩
+  have key := BoundedContinuousFunction.NNReal.upper_bound f x
+  rwa [ENNReal.coe_le_coe]
+#align measure_theory.lintegral_lt_top_of_bounded_continuous_to_nnreal BoundedContinuousFunction.NNReal.lintegral_lt_top
+
+theorem NNReal.integrable (f : X →ᵇ ℝ≥0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:42]:
```suggestion
theorem integrable_of_nnreal (f : X →ᵇ ℝ≥0) :
```
?

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+  exact lintegral_lt_top _ f
+#align measure_theory.finite_measure.integrable_of_bounded_continuous_to_nnreal BoundedContinuousFunction.NNReal.integrable
+
+theorem integral_eq_integral_nnrealPart_sub (f : X →ᵇ ℝ) :
+    ∫ x, f x ∂μ = (∫ x, (f.nnrealPart x : ℝ) ∂μ) - ∫ x, ((-f).nnrealPart x : ℝ) ∂μ := by
+  simp only [f.self_eq_nnrealPart_sub_nnrealPart_neg, Pi.sub_apply, integral_sub, NNReal.integrable]
+  rfl
+#align bounded_continuous_function.integral_eq_integral_nnreal_part_sub BoundedContinuousFunction.integral_eq_integral_nnrealPart_sub
+
+theorem lintegral_lt_top_of_boundedContinuous_to_real (f : X →ᵇ ℝ) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:55]:
```suggestion
theorem lintegral_of_real_lt_top (f : X →ᵇ ℝ) :
```

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+    (∫⁻ x, ENNReal.ofReal (f x) ∂μ) < ∞ := NNReal.lintegral_lt_top _ f.nnrealPart
+#align measure_theory.finite_measure.lintegral_lt_top_of_bounded_continuous_to_real BoundedContinuousFunction.lintegral_lt_top_of_boundedContinuous_to_real
+
+theorem NNReal.toReal_lintegral_eq_integral (f : X →ᵇ ℝ≥0)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:59]:
```suggestion
theorem toReal_lintegral_coe_eq_integral (f : X →ᵇ ℝ≥0)
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean (hunk 1 above)
Comment (kkytola) [reply Mathlib/MeasureTheory/Integral/BoundedContinuousFunction.lean:27]: Thank you!

I thought that a sub-namespace would be clearer for organization, but I realize that it actually breaks the dot notation.

I wonder, however, if it can become a problem to state many lemmas that are specific to the case of `NNReal` codomain in the `BoundedContinuousFunction` namespace. I believe there are good use cases for those specific lemmas in the topology of weak convergence and in the Riesz-Markov-Kakutani representation theorem. But I mildly worry about littering the namespace with such particular cases...  I assume that the `..._of_...` is the best existing naming convention for specifying the codomain. So for now, essentially in line with your other suggestions, I will add something like `...of_nnreal...` to the names (and remove the attempted sub-namespace), except in cases which otherwise are unambiguous like this exact one.

**Comment by kkytola** [comment]
> ✌️ kkytola can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+

**Comment by kkytola** [comment]
> > ✌️ kkytola can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).
> 
> bors r+

bors r+
